US07728025B2
(Step 2) Production of 3-(2-methoxyphenoxy)-2-nitro-5-(pyridin-3-yloxy)-aniline
1.24 g of 3-hydroxypyridine and 5.42 g of potassium carbonate were added to a dimethylformamide (30 ml) solution of 3.03 g of 5-fluoro-3-(2-methoxyphenoxy)-2-nitroaniline, and the reaction liquid was stirred overnight at 90° C. The reaction liquid was diluted with ethyl acetate, washed with water and saturated saline in order, and then dried with anhydrous magnesium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: hexane/ethyl acetate=2/1 to 1/1 to 1/2) to obtain the entitled compound as an orange solid.

reactant | 3-hydroxypyridine | 1.24 g | OC=1C=NC=CC1 | C5H5NO
reactant | potassium carbonate | 5.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | 5-fluoro-3-(2-methoxyphenoxy)-2-nitroaniline | 3.03 g | FC=1C=C(C(=C(N)C1)[N+](=O)[O-])OC1=C(C=CC=C1)OC | C13H11FN2O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2-methoxyphenoxy)-2-nitro-5-(pyridin-3-yloxy)-aniline | COC1=C(OC=2C(=C(N)C=C(C2)OC=2C=NC=CC2)[N+](=O)[O-])C=CC=C1 | C18H15N3O5
